US05219868
0.05 g of boron trifluoride ether complex was added to a mixture of 2.0 g of 1-diethoxymethyl-2-nitroiminoimidazolidine, 1.02 g of o-aminobenzonitrile and 5 ml of acetonitrile followed by agitation at room temperature for 5 minutes. Ether was added to the reaction mixture, and the resultant crystals were collected by filtration and dried to give 2.2 g of 1-(2-cyanophenyliminomethyl)-2-nitroiminoimidazolidine.

reactant | 1-diethoxymethyl-2-nitroiminoimidazolidine | 2.0 g | C(C)OC(N1C(NCC1)=N[N+](=O)[O-])OCC | C8H16N4O4
reactant | o-aminobenzonitrile | 1.02 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | Ether | CCOCC | C4H10O
product | 1-(2-cyanophenyliminomethyl)-2-nitroiminoimidazolidine | 2.2 g | C(#N)C1=C(C=CC=C1)N=CN1C(NCC1)=N[N+](=O)[O-] | C11H10N6O2
